US04725283
Preparation of the 2,5-difluoro-N-benzenesulphonylaniline
0.194 mole (25 g) of 2,5-difluoroaniline is added to 125 ml of pyridine. 0.2 mole (25.5 ml) of benzenesulphonyl chloride is added, while the temperature is between 35° C. and 45° C. The temperature is maintained at 40° C. for 1 hour after the addition is completed, and then the reaction mixture is poured onto 1 kg of ice and water to which 100 ml of concentrated hydrochloric acid have been added. The expected product precipitates. After filtration and washing, it is treated with a normal sodium hydroxide solution in order to remove insoluble material. The soda-containing filtrate is neutralized with concentrated hydrochloric acid. The expected product, which has precipitated, is filtered off, washed to neutrality and recrystallized from acetic acid. It melts at 115° C.

reactant | 2,5-difluoroaniline | 0.194 mole, 25 g | FC1=C(N)C=C(C=C1)F | C6H5F2N
reactant | pyridine | 125 ml | N1=CC=CC=C1 | C5H5N
reactant | benzenesulphonyl chloride | 0.2 mole, 25.5 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | water | O | H2O
product | 2,5-difluoro-N-benzenesulphonylaniline | FC1=C(NS(=O)(=O)C2=CC=CC=C2)C=C(C=C1)F | C12H9F2NO2S
